*------------------------------------------
* *** Spice model ***
*Copyright (C) Panasonic Industry Corporation
*Conductive Polymer Tantalum Solid Capacitor
*Parts No. 6TPC100M
*------------------------------------------
.SUBCKT 6TPC100M 1 2 
C1         4 5  73u  
C2         4 6  27u  
C3         4 7  5.5u  
R1         3 4  28.5m  
R2         4 5  100k  
R3         5 2  22m  
R4         6 2  70m  
R5         7 2  95  
L1         1 3  2.1n  
L2         5 2  270p 
.ENDS 
*$
