* ICM7555 MACROMODEL
* ----------------------------
* Revision 1.0 4/2006
* ----------------------------
* The ICM7555 is a general purpose RC timer capable of generating accurate 
* time delays or frequencies. This device feature and extremely low supply
* current combined with virtually non-existant current spike during output
* transitions. 
* ----------------------------
* Connections
*      1 = GND
*      2 = TRIGGERB
*      3 = OUTPUT
*      4 = RESETB
*      5 = CONTROL VOLTAGE
*      6 = THRESHOLD
*      7 = DISCHARGE
*      8 = VCC
*Parameters which are modeled.
* 1) Full timer functionality
* 2) Supply bias current and load current
* 3) Output rise/fall times
* 4) Reset threshold
* 5) Output VOL/VOH
* 6) Discharge voltage with current   
**************************
.SUBCKT ICM7555 1 2 3 4 5 6 7 8
 XOPAMP 1 2 3 4 5 6 7 8 ICM7555_S
.ENDS
**************************
.SUBCKT ICM7555_S 18 11 12 13 14 15 16 10
*****************************************
*COMPARATORS
ES1 A11 18 10 18 1
IABIAS A11 A12 10UA 
MA1 A13 A16 A12 A11 MOSP
MA2 A14 A15 A12 A11 MOSP
VAOS A17 A16 0.5M    
RAD1 A13 18 10K
RAD2 A14 18 10K
DAC3 A15 10 DA
DAC4 18 A15 DA
GCA1 18 A20 A13 A14 1000M
RCA1 A20 18 100K
VCA1 A21 18 1V
DCA1 A20 A21 DY
DCA2 18 A20 DY
**************
IBBIAS A11 B12 10UA 
MB1 B13 B16 B12 A11 MOSP
MB2 B14 B15 B12 A11 MOSP
VBOS B17 B16 0.5M    
RBD1 B13 18 10K    
RBD2 B14 18 10K
DBC1 B16 10 DA    
DBC2 18 B16 DA
GCB1 18 B20 B13 B14 100M
RCB1 B20 18 100K
VCB1 B21 18 1V
DCB1 B20 B21 DY
DCB2 18 B20 DY
**************
RB1 10 B22 60K
RB2 B22 B23 60K
RB3 B23 18 60K
VR1 B23 A15 0
VR2 B22 B17 0
VIN1 A17 11 0
VIN2 B15 15 0
VIN3 B22 14 0
*******************************************
*SR LATCH
EL1 A25 18 10 18 1
RLA A25 A26 10K
CLA A26 18 1P
MLA1 A26 A27 18 18 MOSN
MLA2 A26 A28 18 18 MOSN
RLB A25 B26 10K
CLB B26 18 1P
MLB1 B26 B27 18 18 MOSN
MLB2 B26 B28 18 18 MOSN
MLB3 B26 B29 18 18 MOSN
VFB1 B27 A26 0
VFB2 A27 B26 0
EFB1 A28 18 POLY(2) A20 18 10 18 0 0 0 0 1
EFB2 B28 18 POLY(2) B20 18 10 18 0 0 0 0 1
****************************
*PD
EPD1 B33 18 B26 18 1
RPD1 B33 B34 10K
CPD1 B34 18 50P
*OUTPUT
MO1 B30 B34 A25 A25 MOSPA 
MO2 B30 B34 18 18 MOSNA
MO3 B31 B30 A25 A25 MOSPA
MO4 B31 B30 18 18 MOSNA
CO1 B31 18 0.1P
CO2 B30 18 0.1P
VO1 B31 12 0 
*DISCHARGE
MD1 16 B30 18 18 MOSNA
*RESET
RRST B29 A25 20K
MRST B29 13 18 18 MOSN
RRSTB 13 18 50G
*SUPPLY CURRENT
ISUP 10 18 12.3U
FSUP 18 A36 VO1 1
DSUP1 18 A36 DZ
DSUP2 A36 A37 DZ
RSUP A37 18 1
GSUP 10 18 A37 18 1
*******************************************
.MODEL DA D(IS=100E-14 RS=0.5k)
.MODEL MOSP PMOS(VTO=-0.7 KP=12.57E-4)
.MODEL MOSN NMOS(VTO=0.7 KP=12.57E-3)
.MODEL MOSPA PMOS(VTO=-2.0 KP=78.5E-4)
.MODEL MOSNA NMOS(VTO=2.0 KP=78.5E-4)
.MODEL DX D(IS=100E-14)
.MODEL DZ D(N=10M)
.MODEL DY D(IS=100E-14 N=0.1M)
*******************************************
.ENDS


* Copyright (c) 2003-2012 Maxim Integrated Products.  All Rights Reserved.
